US08648069B2
5-(4-benzyl-1H-1,2,3-triazol-1-yl)-1H-indazole
Example 87A (969 mg, 3.39 mmol), 3-phenyl-1-propyne (392 mg, 3.37 mmol), sodium azide (278 mg, 4.28 mmol), sodium ascorbate (68 mg, 3.43 mmol), sodium carbonate (75 mg, 0.708 mmol), and L-proline (78 mg, 8.98 mmol) were combined in a 1:1 mixture of dimethyl sulfoxide and water (10 mL). Copper(II) sulfate pentahydrate (46 mg, 0.184 mmol) was added and the mixture was stirred at 65° C. for 3 hours. 6 N Sodium hydroxide (1 mL) was added, and the mixture was stirred for 30 minutes to deprotect the indazole. The mixture was diluted with ethyl acetate and washed with 1 N hydrochloric acid. The organic layer was concentrated under reduced pressure, and the resulting residue was triturated with methanol. The remaining solids were absorbed on silica gel and purified by silica gel chromatography eluting with a gradient of 0-5% methanol in dichloromethane to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 13.35 (s, 1H) 8.58 (s, 1H) 8.17-8.27 (m, 1H) 7.86 (d, J=8.82, 2.03 Hz, 1H) 7.67-7.77 (m, 1H) 7.27-7.36 (m, 2H) 7.18-7.27 (m, 1H) 4.10 (s, 1H). MS (ESI+) m/z 276.0 (M+H)+.

reactant | 3-phenyl-1-propyne | 3.37 mmol, 392 mg | C1(=CC=CC=C1)CC#C | C9H8
reactant | sodium azide | 4.28 mmol, 278 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium ascorbate | 3.43 mmol, 68 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | sodium carbonate | 0.708 mmol, 75 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | L-proline | 8.98 mmol, 78 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Sodium hydroxide | 6 N, 1 mL | [OH-].[Na+]
reactant | indazole | N1N=CC2=CC=CC=C12 | C7H6N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Copper(II) sulfate pentahydrate | 0.184 mmol, 46 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 10 mL | O | H2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 5-(4-benzyl-1H-1,2,3-triazol-1-yl)-1H-indazole | C(C1=CC=CC=C1)C=1N=NN(C1)C=1C=C2C=NNC2=CC1 | C16H13N5
